US08232426B2
b.2.3: N-[1-(4-Nitro-benzyl)-cyclopropyl]-propionamide
To H2SO4(20 ml) at 0-10° C. N-(1-benzyl-cyclopropyl)-propionamide (2 g, 9.84 mmol) was slowly added. The mixture was stirred until a clear solution was obtained. Then KNO3 (1 g, 9.89 mmol) was added in portions at 0-5° C. The mixture was stirred at room temperature for 16 h after which it was poured into ice water, and 50% NaOH was added. The aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with water and brine, dried over MgSO4, filtered, and the solvent evaporated under reduced pressure. The residue was triturated with isopropylether and the precipitate filtered and dried in vacuo to give the product as a brown powder (900 mg, 37%).

reactant | N-(1-benzyl-cyclopropyl)-propionamide | 9.84 mmol, 2 g | C(C1=CC=CC=C1)C1(CC1)NC(CC)=O | C13H17NO
reactant | KNO3 | 9.89 mmol, 1 g | [N+](=O)([O-])[O-].[K+]
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 20 ml | OS(=O)(=O)O | H2O4S
product | N-[1-(4-Nitro-benzyl)-cyclopropyl]-propionamide | 900 mg, 37% | [N+](=O)([O-])C1=CC=C(CC2(CC2)NC(CC)=O)C=C1 | C13H16N2O3
